US04186131
A solution of 2,4-dimethylphenylisonitrile (Ugi, et al., Angew. Chem. Internat. Ed. (Engl.) 4, 472 (1965)) (14.8 g., 0.11 mole) in 100 ml. of acetonitrile was stirred at ice bath temperature while chlorine gas was bubbled in. When tlc indicated that the isonitrile had been consumed, the solvent was removed in vacuo, leaving 22.7 g. of the oily isocyanodichloride. To a solution of the latter in 130 ml. of acetone was added a solution of 7.3 g. (0.11 mole) of sodium azide in 25 ml. of water. After one hour, the acetone was evaporated in vacuo and the aqueous residue was extracted with ethyl acetate. The extract was washed with water and brine, dried (Na2SO4) and evaporated to provide 24.5 g. of a waxy solid. Trituration with isopropyl ether-hexane gave 18.9 g. of the chlorotetrazole, m.p. 75°-77°.

reactant | 2,4-dimethylphenylisonitrile | 0.11 mole, 14.8 g | CC1=C(C=CC(=C1)C)[N+]#[C-] | C9H9N
reactant | acetonitrile | C(C)#N | C2H3N
reactant | chlorine | ClCl | Cl2
reactant | sodium azide | 0.11 mole | [N-]=[N+]=[N-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | isopropyl ether hexane | C(C)(C)OC(C)C.CCCCCC | InChI=1S/C6H14O.C6H14/c1-5(2)7-6(3)4;1-3-5-6-4-2/h5-6H,1-4H3;3-6H2,1-2H3
